US04391808
To the solution of 88 mg of 5-(4-methylpiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine in 1 ml of methylene chloride, 74 mg of m-chloroperbenzoic acid are added at 0° C. The mixture is stirred at 0° C. overnight; this is diluted with 1 ml of ether, one equivalent of ethereal hydrochloric acid solution is added and the resulting precipitate is collected. Recrystallization from methanol-ethyl acetate yields 5-(4-methyl-4-oxidopiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine hydrochloride, melting at 155° with decomposition.

reactant | 5-(4-methylpiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine | 88 mg | CN1CCN(CC1)C=1N2C(SC3=C(N1)C=CC=C3)=NC=C2 | C15H17N5S
reactant | m-chloroperbenzoic acid | 74 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | hydrochloric acid | one equivalent | Cl | ClH
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 1 ml | CCOCC | C4H10O
product | 5-(4-methyl-4-oxidopiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine hydrochloride | Cl.C[N+]1(CCN(CC1)C=1N2C(SC3=C(N1)C=CC=C3)=NC=C2)[O-] | InChI=1S/C15H17N5OS.ClH/c1-20(21)10-8-18(9-11-20)14-17-12-4-2-3-5-13(12)22-15-16-6-7-19(14)15;/h2-7H,8-11H2,1H3;1H
